US08138197B2
2-Methoxy-6-phenylpyridine-4-carboxylic acid
25% NaOMe/methanol solution (92 μL) was added to an MeOH (2 mL) solution of methyl 2-chloro-6-phenylpyridine-4-carboxylate (1100 mg), and stirred at room temperature for 2 hours. Further, 25% NaOMe/methanol solution (92 μL) was added to it, and stirred under heat with refluxing for 2 hours and 30 minutes. DMA (3 mL) was added to it, and stirred overnight at 130° C., then 25% NaOMe/methanol solution (92 μL) was added to it, and stirred at 130° C. for 7 hours. With cooling with ice, diluted hydrochloric acid was added to it, the formed precipitate was taken out through filtration, washed with water, dried, and purified through reversed-phase high-performance liquid chromatography [acetonitrile/water+0.11% trifluoroacetic acid] to obtain the title compound as a white powder.

reactant | NaOMe methanol | 92 μL | C[O-].[Na+].CO
reactant | MeOH | 2 mL | CO | CH4O
reactant | methyl 2-chloro-6-phenylpyridine-4-carboxylate | 1100 mg | ClC1=NC(=CC(=C1)C(=O)OC)C1=CC=CC=C1 | C13H10ClNO2
reactant | NaOMe methanol | 92 μL | C[O-].[Na+].CO
reactant | NaOMe methanol | 92 μL | C[O-].[Na+].CO
reactant | hydrochloric acid | Cl | ClH
solvent | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
product | 2-Methoxy-6-phenylpyridine-4-carboxylic acid | COC1=NC(=CC(=C1)C(=O)O)C1=CC=CC=C1 | C13H11NO3
